US08357717B2
Stage 3: Ethyl 4,5,6,7-tetrahydroisoxazolo[4,5-c]pyridine-3-carboxylate
Trifluoroacetic acid (6.67 ml, 89.9 mmol) was added at 0° C. to a solution of 5-tert-butyl 3-ethyl 7a-(pyrrolidin-1-yl)-3a,4,7,7a-tetrahydroisoxazolo[4,5-c]pyridine-3,5(6H)-dicarboxylate (5.5 g, 14.98 mmol) in DCM (100 ml), and the mixture was stirred for 16 hours under reflux. Cooling to 0° C. was then carried out and NaHCO3 solution was added. The phases were separated and the aqueous phase was extracted with dichloromethane. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. Purification of the crude product was carried out by column chromatography (silica gel, 16% methanol in ethyl acetate). Yield: 62% [Alternatively, ethyl 4,5,6,7-tetrahydroisoxazolo[4,5-c]pyridine-3-carboxylate A-06 can be synthesised as described in WO2006105945.]

reactant | Trifluoroacetic acid | 89.9 mmol, 6.67 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-tert-butyl 3-ethyl 7a-(pyrrolidin-1-yl)-3a,4,7,7a-tetrahydroisoxazolo[4,5-c]pyridine-3,5(6H)-dicarboxylate | 14.98 mmol, 5.5 g | N1(CCCC1)C12C(CN(CC1)C(=O)OC(C)(C)C)C(=NO2)C(=O)OCC | C18H29N3O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4,5,6,7-tetrahydroisoxazolo[4,5-c]pyridine-3-carboxylate | Yield: 62% | O1N=C(C=2CNCCC21)C(=O)OCC | C9H12N2O3
